US07939534B2
tert-butyl (3-((6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate was dissolved in MeOH (1 mL) and allowed to stir at room temperature. HCl/dioxane (4M, 2 mL) was added dropwise and stirred until complete. The reaction mixture was concentrated, diluted with EtOAc, washed with saturated sodium bicarbonate, brine and dried (Na2SO4). The organics were concentrated and purified by RP-HPLC with a mixture of acetonitrile and H2O to give N-((2-(aminomethyl)pyridin-3-yl)methyl)-6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamide as a solid (0.026 g, 25%). LC/MS (M+H+) m/z 446.2.

reactant | tert-butyl (3-((6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamido)methyl)pyridin-2-yl)methylcarbamate | C1(=CCCC1)C1=NC(=C(C(=O)NCC=2C(=NC=CC2)CNC(OC(C)(C)C)=O)C=C1)NCCC1=CC(=CC=C1)F | C31H36FN5O3
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
solvent | MeOH | 1 mL | CO | CH4O
product | N-((2-(aminomethyl)pyridin-3-yl)methyl)-6-cyclopentenyl-2-(3-fluorophenethylamino)nicotinamide | 0.026 g, 25% | NCC1=NC=CC=C1CNC(C1=C(N=C(C=C1)C1=CCCC1)NCCC1=CC(=CC=C1)F)=O | C26H28FN5O
